US09126981B2
Synthesis of Methyl 3-(2,2-diethoxyethylamino)propanoate (Compound IX-27)
According to the procedure described in the synthesis method of Compound IX-5 with the modification that the reaction was carried out overnight, 2,2-diethoxyethanamine (8.72 ml, 60 mmol) was reacted with methyl 3-bromopropionate (3.27 ml, 30 mmol) and the obtained residue was purified by Büch silica gel column chromatography (eluent: chloroform:methanol=100:0 to 98:2) to obtain the title compound (1.75 g, 27%).

reactant | 2,2-diethoxyethanamine | 60 mmol, 8.72 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | methyl 3-bromopropionate | 30 mmol, 3.27 ml | BrCCC(=O)OC | C4H7BrO2
product | Methyl 3-(2,2-diethoxyethylamino)propanoate | 1.75 g, 27% | C(C)OC(CNCCC(=O)OC)OCC | C10H21NO4
